US08623889B2
A mixture of N-(7-hydroxyisoquinolin-3-yl)cyclopropanecarboxamide (53 mg, 0.23 mmol), ethyl 2-bromoisobutyrate (69 uL, 0.47 mmol), cesium carbonate (166.8 mg, 0.5119 mmol), and 1,4-dioxane (2.0 mL, 26 mmol) was heated in a sealed vial at 100° C. for 22 hours. The reaction mixture was poured into ethyl acetate, washed with water and brine, dried over MgSO4, filtered, and evaporated in vacuo to yield 63.4 mg (80%) of ethyl 2-(3-(cyclopropanecarboxamido)isoquinolin-7-yloxy)-2-methylpropanoate which was carried forward without purification. LCMS (ESI): M+H=343.2.

reactant | N-(7-hydroxyisoquinolin-3-yl)cyclopropanecarboxamide | 0.23 mmol, 53 mg | OC1=CC=C2C=C(N=CC2=C1)NC(=O)C1CC1 | C13H12N2O2
reactant | ethyl 2-bromoisobutyrate | 0.47 mmol, 69 uL | BrC(C(=O)OCC)(C)C | C6H11BrO2
reactant | cesium carbonate | 0.5119 mmol, 166.8 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 1,4-dioxane | 26 mmol, 2.0 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ethyl 2-(3-(cyclopropanecarboxamido)isoquinolin-7-yloxy)-2-methylpropanoate | 63.4 mg, 80% | C1(CC1)C(=O)NC=1N=CC2=CC(=CC=C2C1)OC(C(=O)OCC)(C)C | C19H22N2O4
